US07119221B2
Under an Ar atmosphere at 0° C., BuLi (2.5M in hexanes, 37 mL, 92.5 mmol) was added drop wise to a solution of iPr2NH (12.3 mL, 88 mmol, distilled from NaOH) in dry THF (150 mL) in 10 min. The reaction mixture was stirred for 20 min, cooled to −70° C. and then, tert-butyl cyclopropanecarboxylate (prepared according to Kohlrausch, K. W. F.; Skrabal, R., Z. Elektrochem. Angew. Phys. Chem, 1937, 43, 282–285, 12.5 g, 88 mmol) was added drop wise in 20 min. After 3 min, 1-bromo-4-chlorobutane (13.7 mL, 20.1 g, 117 mmol) was added drop wise in 15 min. The reaction mixture was allowed to reach rt, poured into a mixture of aqueous saturated NH4Cl (200 mL) and ice (50 mL) and extracted with Et2O (1×200 mL, 1×100 mL). The combined organic layers were washed with brine, dried (Na2SO4) and evaporated in vacuo. The remaining oil, was purified by fractional distillation to give tert-butyl 1-(4-chlorobutyl)-1-cyclopropanecarboxylate (10.73 g, 52%) as a colorless oil. bp: T=57–61° C. (p=0.001 mbar). 1H NMR (CDCl3): δ=3.52 (t, J=6.6 Hz, 2H), 1.76 (quintet, J=6.8 Hz, 2H), 1.64–1.54 (m, 2H), 1.51–1.46 (m, 2H), 1.42 (s, 9H), 1.12 (dd, J=6.6, 3.9 Hz, 2H), 0.60 (dd, J=6.6, 3.9 Hz, 2H). 13C NMR (CDCl3): δ=173.9, 80.0, 45.1, 33.6, 32.9, 28.2 (3×), 25.3, 24.2, 15.4 (2×). HRMS calcd for C12H22ClO2 (MH+): 233.1308, found: 233.1308.

reactant | BuLi | 92.5 mmol, 2.5M, 37 mL | [Li]CCCC
reactant | iPr2NH | 88 mmol, 12.3 mL | N(C(C)C)C(C)C | C6H15N
reactant | tert-butyl cyclopropanecarboxylate | 88 mmol, 12.5 g | C1(CC1)C(=O)OC(C)(C)C | C8H14O2
reactant | 1-bromo-4-chlorobutane | 117 mmol, 13.7 mL, 20.1 g | BrCCCCCl | C4H8BrCl
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | tert-butyl 1-(4-chlorobutyl)-1-cyclopropanecarboxylate | 10.73 g, 52% | ClCCCCC1(CC1)C(=O)OC(C)(C)C | C12H21ClO2
